*** S5 S6 S7 all OFF ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 S6 S7 all ON ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
R21 10 15 1k
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 ON, S6 S7 all OFF ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
R21 10 15 1k
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 OFF, S6 ON, S7 OFF ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
R21 10 15 1k
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 OFF, S6 OFF, S7 ON ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
R21 10 15 1k
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 999 999 1k
Rx14 7 10 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
* AOUTPUT1_MAXV = 5.0
*** S5 S6 ON, S7 OFF ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
R21 10 15 1k
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 7 10 1k
Rx12 999 999 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 999 999 1k
Rx16 7 10 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** S5 OFF, S6 S7 ON ***
* XA 3 2 4 11 1 LM741
XB 5 6 4 11 6 LM741
XC 10 0 4 11 8 LM741
* XD 12 13 4 11 14 LM741
R21 10 15 1k
RVariable1 4 5 100k
RVariable2 5 11 100k
Rx11 999 999 1k
Rx12 7 10 1k
Rx13 7 10 1k
Rx14 999 999 1k
Rx15 7 10 1k
Rx16 999 999 1k
R21 10 8 1k
V1 4 0 15
V2 0 11 15
V3 999 999 0
* INSTRUCTIONS: Creative mode allows you to construct, simulate and implement a circuit in any way within the constraints of the hardware. You have been provided with every node necessary for constructing the circuit. Joining nodes will produce an error.
* IMPLEMENTATION NOTES: When this lab is opened, the relay controlling the power supply (Power - Port 1 Line 3 - ON) will switch ON. Once your circuit has been constructed, it will be checked against a set of possible valid implementations. If your circuit matches, it will be implemented on the hardware
* DIGOUTPUT0_POST = 0 0 0 0 0 0 0 0
* DIGOUTPUT1_POST = 0 0 0 0 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0